************************************************************************
* auCdl Netlist:
* 
* Library Name:  gsclib045
* Top Cell Name: TLATX2
* View Name:     schematic
* Netlisted on:  Jun  4 07:52:23 2012
************************************************************************

*.BIPOLAR
*.RESI = 2000 
*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL VSS:G
+        VDD:P
+        ExtVDD:P
+        ExtVSS:G

*.PIN VSS
*+    VDD
*+    ExtVDD
*+    ExtVSS

************************************************************************
* Library Name: gsclib045
* Cell Name:    TLATX2
* View Name:    schematic
************************************************************************

.SUBCKT TLATX2 D G Q QN VDD VSS
*.PININFO D:I G:I VDD:I VSS:I Q:O QN:O
Mmn5 net257 D VSS VSS g45n1svt m=1 l=45n w=145n
Mmn6 n0 Gbb net257 VSS g45n1svt m=1 l=45n w=145n
Mmn16 n0 Gb net245 VSS g45n1svt m=1 l=45n w=145n
Mmn15 net245 Qint VSS VSS g45n1svt m=1 l=45n w=145n
Mmn22 QN Qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn21 Q Qbint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn0 Gb G VSS VSS g45n1svt m=1 l=45n w=145n
Mmn10 Qint n0 VSS VSS g45n1svt m=1 l=45n w=205n
Mmn20 Qbint Qint VSS VSS g45n1svt m=1 l=45n w=520n
Mmn1 Gbb Gb VSS VSS g45n1svt m=1 l=45n w=145n
Mmp6 n0 Gb net220 VDD g45p1svt m=1 l=45n w=215n
Mmp5 net220 D VDD VDD g45p1svt m=1 l=45n w=215n
Mmp16 n0 Gbb net212 VDD g45p1svt m=1 l=45n w=215n
Mmp15 net212 Qint VDD VDD g45p1svt m=1 l=45n w=215n
Mmp22 QN Qint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp21 Q Qbint VDD VDD g45p1svt m=1 l=45n w=780n
Mmp0 Gb G VDD VDD g45p1svt m=1 l=45n w=215n
Mmp1 Gbb Gb VDD VDD g45p1svt m=1 l=45n w=215n
Mmp10 Qint n0 VDD VDD g45p1svt m=1 l=45n w=310n
Mmp20 Qbint Qint VDD VDD g45p1svt m=1 l=45n w=780n
.ENDS

